US04291044
297.5 g (2.5 mol) of thionyl chloride were stirred slowly into a solution, warmed to 60° C., of 404.6 g (1.7 mol) of 1-hydroxy-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one in 3,000 ml of anhydrous toluene. The mixture was kept at the above temperature for 12 hours and then the solvent and excess thionyl chloride were distilled off. The oil which remained was distilled in vacuo. 353.3 g (81% of theory) of 1-chloro-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one of boiling point 95°-103° C./0.3 mm Hg were obtained.

reactant | thionyl chloride | 2.5 mol, 297.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-hydroxy-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one | 1.7 mol, 404.6 g | OC=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)F | C13H15FO3
solvent | toluene | 3,000 ml | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-2-(4-fluorophenoxy)-4,4-dimethyl-penten-3-one | 353.3 g, 81% | ClC=C(C(C(C)(C)C)=O)OC1=CC=C(C=C1)F | C13H14ClFO2
